US06288082B1
A total of 500 mg (1.63 mM) of 7-benzyloxy-4hydroxy-6-methoxy-quinoline-3-carbonitrile was taken up into 3 ml of oxalyl chloride (2M in CHCl3) and allowed to stand for 15 min followed by refluxing for 1 h. The solution was allowed to cool and then diluted with 300 mg of hexane to give a green solid. The solid was isolated and washed with excess hexane and dried under vacuum at 40° C. to yield 586 mg of 7-benzyloxy-4-chloro-6-methoxy-quinoline-3-carbonitrile as the hydrogen chloride salt. This compound was taken immediately on for the next step.

reactant | 7-benzyloxy-4hydroxy-6-methoxy-quinoline-3-carbonitrile | 1.63 mM, 500 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)O)OC | C18H14N2O3
reactant | oxalyl chloride | 2M, 3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | hexane | 300 mg | CCCCCC | C6H14
product | 7-benzyloxy-4-chloro-6-methoxy-quinoline-3-carbonitrile | 586 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)Cl)OC | C18H13ClN2O2
